US05276150
Synthesis of 3-cyano-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine
A mixuture of 0.536 g (2 mmol) of 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one, 0.821 g (10 mmol) of 3-aminocrotonitrile, 0.546 g (4 mmol) of zinc chloride, and 1.0 g of Molecular Shieves 4A was added to 1,4-dioxane. This reaction mixture was refluxed with application of heat in an inert atmoshpere for 5 hours. The reaction mixture was then cooled to room temperature and neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The solvents contained in the extract were distilled off and the residue was chromatographed on a silica gel column, whereby the captioned compound was obtained. The yield was 0.59 g (84.6%).

reactant | 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one | 2 mmol, 0.536 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=NC=C1)CC(C=C)=O | C15H12N2O3
reactant | 3-aminocrotonitrile | 10 mmol, 0.821 g | C/C(=C\C#N)/N | C4H6N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 4 mmol, 0.546 g | [Cl-].[Zn+2].[Cl-]
product | 3-cyano-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine | C(#N)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=CC=C1)C)C | C19H16N4O2
